US07141697B2
A 5 liter autoclave is charged with 180 g of 1-[cyano(4-methoxyphenyl)methyl]cyclohexanol, 2400 ml of methanol, 600 ml of aqueous ammonia (25% by volume) and 135 g of Raney nickel (pretreated as given under 1a)) and the mixture is subjected to hydrogenation at 27 to 30° C. and 120 psi pressure of hydrogen for 9 to 10 hours. The reaction mixture is filtered through 100 g of the celite and the catalyst bed is washed with 700 ml of methanol. The filtrate is concentrated to get 167.1 g of the crude product as an oily residue. 1.1 g of the crude product is dissolved in 2 ml of dry ethyl acetate and about 2 ml of isopropanolic HCl are added (the pH of the solution is about 2). The solvent is removed at high vacuum to give 1.14 g of 1-[2-amino-1-(4-methoxyphenyl)ethyl]cyclohexanol hydrochloride.

reactant | 1-[cyano(4-methoxyphenyl)methyl]cyclohexanol | 180 g | C(#N)C(C1(CCCCC1)O)C1=CC=C(C=C1)OC | C15H19NO2
reactant | ammonia | 600 ml | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | HCl | about 2 ml | Cl | ClH
catalyst | Raney nickel | 135 g | [Ni] | Ni
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2400 ml | CO | CH4O
product | 1-[2-amino-1-(4-methoxyphenyl)ethyl]cyclohexanol hydrochloride | 1.14 g | Cl.NCC(C1=CC=C(C=C1)OC)C1(CCCCC1)O | InChI=1S/C15H23NO2.ClH/c1-18-13-7-5-12(6-8-13)14(11-16)15(17)9-3-2-4-10-15;/h5-8,14,17H,2-4,9-11,16H2,1H3;1H
